US08455646B2
Preparation of (R)-quinuclidin-3-yl 2-(benzylamino)-2-phenylacetate (Diasteroisomers 1 and 2 of C24)
A mixture of 2-(benzylamino)-2-phenylacetic acid (I23) (0.94 g, 3.90 mmol), DCC (0.97 g, 4.70 mmol), HOBt (0.63 g, 4.07 mmol) and 3(R)-quinuclidinol (1.51 g, 11.7 mmol) in dry THF (30 mL) is stirred at room temperature overnight under nitrogen flowstream (LC-MS monitoring: complete conversion). The solvent is evaporated and the residue is taken up with EtOAc and washed twice with water. The organic phase is dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is purified by flash chromatography (DCM/MeOH=98/2, 0.2% NH3(aq.) to 95/5, 0.5% NH3(aq.)) to give a mixture of diastereoisomers 1 and 2 of C24 (231 mg, 52% yield, mixture of diasteroisomers).

reactant | 2-(benzylamino)-2-phenylacetic acid | 3.90 mmol, 0.94 g | C(C1=CC=CC=C1)NC(C(=O)O)C1=CC=CC=C1 | C15H15NO2
reactant | DCC | 4.70 mmol, 0.97 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 4.07 mmol, 0.63 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3(R)-quinuclidinol | 11.7 mmol, 1.51 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(benzylamino)-2-phenylacetate | 52% yield | C(C1=CC=CC=C1)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C22H26N2O2
